US07582626B2
c) N′-Allyl-N′-cyclobutyl-hydrazine hydrochloride
Acetyl chloride (1.45 mL, 20.41 mmol) was added dropwise into methanol (10 mL) at 0° C. The resulting mixture was stirred at 25° C. for 30 min. N′-allyl-N′-cyclobutyl-hydrazinecarboxylic acid tert-butyl ester (0.40 g, 1.77 mmol) was added in one portion. The reaction was stirred at 25° C. for 18 h. The mixture was concentrated in vacuo and used directly in the next step.

reactant | Acetyl chloride | 20.41 mmol, 1.45 mL | C(C)(=O)Cl | C2H3ClO
reactant | N′-allyl-N′-cyclobutyl-hydrazinecarboxylic acid tert-butyl ester | 1.77 mmol, 0.40 g | C(C)(C)(C)OC(=O)NN(C1CCC1)CC=C | C12H22N2O2
solvent | methanol | 10 mL | CO | CH4O
product | N′-Allyl-N′-cyclobutyl-hydrazine hydrochloride | Cl.C(C=C)N(N)C1CCC1 | InChI=1S/C7H14N2.ClH/c1-2-6-9(8)7-4-3-5-7;/h2,7H,1,3-6,8H2;1H
